US08304419B2
Step B: 3-Chloro-5-[(cyclopropylamino)carbonyl]-1H-pyrrole-2-carboxylic acid
LiOH (1 N in water, 2 mL, 2 mmol) was added to a solution of methyl 3-chloro-5-[(cyclopropylamino)carbonyl]-1H-pyrrole-2-carboxylate (0.0992 g, 0.409 mmol) in THF (2 mL) and methanol (2 mL) and the solution was stirred at RT overnight. The reaction mixture was evaporated to a residue and partitioned between EtOAc and 1 N HCl. The organic layer was separated, dried over MgSO4 and evaporated to a solid to afford the title compound (0.072 g, 77%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.08 (s, 1H), 12.05 (br. s., 1H), 8.32 (d, 1H), 6.73 (d, 1H), 2.71-2.81 (m, 1H), 0.62-0.72 (m, 2H), 0.42-0.53 (m, 2H). LCMS: m/z 229.2 (M+1).

reactant | LiOH | 2 mmol, 1 N, 2 mL | [Li+].[OH-]
reactant | methyl 3-chloro-5-[(cyclopropylamino)carbonyl]-1H-pyrrole-2-carboxylate | 0.409 mmol, 0.0992 g | ClC1=C(NC(=C1)C(=O)NC1CC1)C(=O)OC | C10H11ClN2O3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | 3-Chloro-5-[(cyclopropylamino)carbonyl]-1H-pyrrole-2-carboxylic acid | 0.072 g, 77% | ClC1=C(NC(=C1)C(=O)NC1CC1)C(=O)O | C9H9ClN2O3
